US07700598B2
46f (R)-2-(3,5-bis-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 307 mg (12.8 mmol) LiOH in 5 mL water was added to a solution of 5.0 g (8.5 mmol) of (R)-2-(3,5-bis-trifluoromethyl-phenyl)-1-methoxy-carbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 50 mL THF and the reaction mixture was stirred overnight at RT. The mixture was evaporated down in vacuo, the residue was taken up in water, acidified with 1 M HCl, the precipitate was filtered off and dried in the vacuum drying cupboard at 40° C.

reactant | LiOH | 12.8 mmol, 307 mg | [Li+].[OH-]
reactant | (R)-2-(3,5-bis-trifluoromethyl-phenyl)-1-methoxy-carbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 8.5 mmol, 5.0 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=C=O)OC)C=CC=C2 | C27H25F6N3O5
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | (R)-2-(3,5-bis-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O)C=CC=C2 | C26H25F6N3O5
